US04705795
(a) 4-(3,5-dimethylpiperidino)-butyronitrile
Into a solution under reflux of 50 g (0.424 mole) of 3,5 dimethylpiperidine at 96% in 60 ml benzene are run in25 minutes 22 g (0.212 mole) of 4-chlorobutyronitrile and the reflux is continued for 2h.

reactant | 3,5 dimethylpiperidine | 0.424 mole, 50 g | CC1CNCC(C1)C | C7H15N
reactant | 4-chlorobutyronitrile | 0.212 mole, 22 g | ClCCCC#N | C4H6ClN
solvent | benzene | 60 ml | C1=CC=CC=C1 | C6H6
product | 4-(3,5-dimethylpiperidino)-butyronitrile | CC1CN(CC(C1)C)CCCC#N | C11H20N2
